US08278290B2
(v) 2-Bromo-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran
To a stirred solution of 2-t-butyldimethylsilanyl-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran (200 mg, 0.44 mmol) in 1,2-dichloroethane (2 mL) at 0° C. under nitrogen was added bromine (23 μl, 0.44 mmol) dropwise and the reaction mixture was stirred for 10 minutes. After this time the reaction was quenched with saturated sodium thiosulphate solution, extracted with ethyl acetate (20 mL), dried over magnesium sulphate and the solvent removed by distillation under vacuum. The crude product was re-crystallised from acetonitrile to afford the title compound as a colourless crystalline solid; (69 mg, 37%); 1H NMR (300 MHz, CDCl3) δ 7.45(d, 1H, J=8.78 Hz), 7.15(s, 2H, benzoyl-Hs), 7.01(d, 1H, J=2.18 Hz), 6.90(dd, 1H, J=8.74, 2.27 Hz), 3.94(s, 3H, OMe), 3.85(s, 9H, 3×OMe); 13C NMR (75 MHz, CDCl3) δ 188.21(CO), 158.29, 155.80, 152.72, 142.55, 131.99, 130.69, 120.98, 119.97, 119.67, 112.90, 107.00, 95.30, 60.67, 55.94, 55.43.

reactant | 2-t-butyldimethylsilanyl-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran | 0.44 mmol, 200 mg | [Si](C)(C)(C(C)(C)C)C=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2)OC | C25H32O6Si
reactant | bromine | 0.44 mmol, 23 μl | BrBr | Br2
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | 2-Bromo-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran | BrC=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2)OC | C19H17BrO6
